US06043247
A mixture of phthalic acid anhydride (43 g, 0.291 mol), 3-bromophenyl acetic acid (62.5 g, 0.291 mol) and sodium acetate (2 g, 0.015 mol) was heated at 220° C. for 2 h under an atmosphere of nitrogen. The reaction mixture was cooled to about 80° C. and ethanol (75 ml) was added. The precipitate was filtered off, washed with a mixture of heptane and ethanol (9:1) and dried in vacuo at 50° C. which afforded 71 g (81%) of 3-(3-bromobenzylidene)-3H-isobenzofuran-1-one as a solid.

reactant | phthalic acid anhydride | 0.291 mol, 43 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 3-bromophenyl acetic acid | 0.291 mol, 62.5 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | sodium acetate | 0.015 mol, 2 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 3-(3-bromobenzylidene)-3H-isobenzofuran-1-one | 71 g, 81% | BrC=1C=C(C=C2OC(C3=CC=CC=C23)=O)C=CC1 | C15H9BrO2
